US07226644B2
To 20 g of 5-(3-hydroxy-1-hexynyl)-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl) cyclohexyl]benzene which was dissolved into 80 mL of ethanol, 2 g of 5% palladium carbon (50% in water) was added, stirred for 6 hours at a hydrogen pressure of 0.5 MPa, and was then left to stand overnight. After palladium carbon was removed by filtration, the solvent was evaporated under a reduced pressure to obtain 10 g of 5-(3-hydroxy-1-hexyl)-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene.

reactant | 5-(3-hydroxy-1-hexynyl)-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl) cyclohexyl]benzene | 20 g | OC(C#CC=1C(=C(C(=C(C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)F)F)F)CCC | C27H37F3O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 2 g | [C].[Pd]
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 5-(3-hydroxy-1-hexyl)-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene | 10 g | OC(CCC=1C(=C(C(=C(C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)F)F)F)CCC | C27H41F3O
